US06861440B2
To solution of 4-azidomethyl-5-methyl-2-phenyl-1H-imidazole (1.22 g) in ethanol (50 ml) was added 10% Pd/C (0.10 g). The reaction mixture was hydrogenated at room temperature and 1.1 bar for 30 minutes, the catalyst was filtered off over a pad of celite. The filtrate was evaporated to dryness under high vacuum to obtain C-(5-methyl-2-phenyl-1H-imidazol-4-yl)-methylamine (1.06 g) as a light yellow foam which was sufficiently pure to be used directly in the next step.

reactant | 4-azidomethyl-5-methyl-2-phenyl-1H-imidazole | 1.22 g | N(=[N+]=[N-])CC=1N=C(NC1C)C1=CC=CC=C1 | C11H11N5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.10 g | [Pd] | Pd
product | C-(5-methyl-2-phenyl-1H-imidazol-4-yl)-methylamine | 1.06 g | CC1=C(N=C(N1)C1=CC=CC=C1)CN | C11H13N3
